US04824855
A mixture of 13.0 g (75 mmol) of 2-(N,N-dimethylamino)ethyl acetoacetate, 21.7 g (75 mmol) of cyclopropylmethyl 2-(3-nitrobenzylidene)-acetoacetate, 6.0 ml of 28% aqueous ammonia and 70 ml of ethanol was stirred at the reflux temperature for 7 hours, and then the solvent was removed under reduced pressure. The residue was chromatographed on silica gel column and crystallized from ethyl ether to afford 3-cyclopropylmethyl 5-[2-(N,N-dimethylamino)ethyl] 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate (14.1 g, 42.3%) as yellow crystals.

reactant | 2-(N,N-dimethylamino)ethyl acetoacetate | 75 mmol, 13.0 g | C(CC(=O)C)(=O)OCCN(C)C | C8H15NO3
reactant | cyclopropylmethyl 2-(3-nitrobenzylidene)-acetoacetate | 75 mmol, 21.7 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCC2CC2)C(=O)C)C=CC1 | C15H15NO5
reactant | ammonia | 6.0 ml | N | H3N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-cyclopropylmethyl 5-[2-(N,N-dimethylamino)ethyl] 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 14.1 g, 42.3% | CC=1NC(=C(C(C1C(=O)OCC1CC1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN(C)C)C | C23H29N3O6
